US07253165B2
Synthesis of (R)-1-({2-[3-(3-bromo-phenyl)-pyrazolo[4,3-c]pyridin-1-yl]-ethyl}-methyl-amino)-3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dimethylformamide and {2-[3-(3-bromo-phenyl)-pyrazolo[4,3-c]pyridin-1-yl]-ethyl}-methyl-amine (Table No. 1, SM 6) in ethanol essentially as described above in Example 21. Purity by LC/MS=100%, [M+H]+=616.

reactant | (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | {2-[3-(3-bromo-phenyl)-pyrazolo[4,3-c]pyridin-1-yl]-ethyl}-methyl-amine | BrC=1C=C(C=CC1)C1=NN(C2=C1C=NC=C2)CCNC | C15H15BrN4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-({2-[3-(3-bromo-phenyl)-pyrazolo[4,3-c]pyridin-1-yl]-ethyl}-methyl-amino)-3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propan-2-ol | BrC=1C=C(C=CC1)C1=NN(C2=C1C=NC=C2)CCN(C[C@H](COC2=CC=C(C=C2)C2=NOC1=C2C=CC(=C1)F)O)C | C31H27BrFN5O3
